US04010202
In 300 volume parts of ethanol is dissolved 5 parts of 2-amino-5,6-dihydroxy-3,4-dihydro-1(2H)-naphthalenone hydrobromide and, after the addition of 50 parts of β-phenylpropionaldehyde, catalytic reduction is carried out at ordinary temperature and pressure using palladium-on-carbon as a catalyst. When a stoichiometric amount of hydrogen has been absorbed, the reaction mixture is filtered and the filtrate is concentrated under reduced pressure. The procedure yields 3.5 parts of 2-(3-phenylpropyl)amino-5,6-dihydroxy-3,4-dihydro-1(2H)-naphthalenone hydrobromide as colorless crystals melting at 215°-217° C.

reactant | β-phenylpropionaldehyde | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | 2-amino-5,6-dihydroxy-3,4-dihydro-1(2H)-naphthalenone hydrobromide | Br.NC1C(C2=CC=C(C(=C2CC1)O)O)=O
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 2-(3-phenylpropyl)amino-5,6-dihydroxy-3,4-dihydro-1(2H)-naphthalenone hydrobromide | Br.C1(=CC=CC=C1)CCCNC1C(C2=CC=C(C(=C2CC1)O)O)=O | InChI=1S/C19H21NO3.BrH/c21-17-11-9-14-15(19(17)23)8-10-16(18(14)22)20-12-4-7-13-5-2-1-3-6-13;/h1-3,5-6,9,11,16,20-21,23H,4,7-8,10,12H2;1H
